US05811439
The same procedures used in Example 1 were repeated except for using 870 mg of indole-3-carbaldehyde and benzhydryl chloride in place of the benzyl bromide used in Example 1 to give 852 mg of 1-benzhydrylindole-3-carbaldehyde as brown crystals. The yield thereof was found to be 46%.

reactant | indole-3-carbaldehyde | 870 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | benzhydryl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
product | 1-benzhydrylindole-3-carbaldehyde | 852 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C22H17NO
